US06765006B2
5-(2-Propylamino)-2(3H)-benzoxazolone. To a Parr bottle containing 5-nitro-2(3H)-benzoxazolone (8.08 g, 44.9 mmol) was added acetic acid (230 mL) and then Ar was bubbled for 10 min. Palladium on C (10%. 0.5 g) was added carefully and the hydrogenation was carried out under 45 psi of hydrogen on a Parr hydrogenator. The reaction was complete within 2 h, and mixture was filtered through a pad of Celite. The solvent was then removed in vacuo, and 5-amino-2(3H)-benzoxazolone was obtained as a pale solid. Without further purification, to this solid was added MeOH (70 mL), THF (70 mL), acetic acid (12 mL), and acetone (4.15 mL). The mixture was then cooled to 0° C., and NaCNBH3 (3.6 g) was added slowly. The reaction mixture became a brown colored solution within 20 min. The reaction mixture was concentrated in vacuo, and water (60 mL) was added along with NaOH (2 N) to bring the pH to around 7. The product was then extracted with EtOAc (2×350 mL) and purified by flash chromatography (CH2CH2:MeOH:TEA=49:1:0.15, Rf=0.17) to result in the product (5.32 g, 62%). 1H NMR (300 MHz, CDCl3) δ 6.98 (d, J=8.7 Hz, 1H), 6.34-6.27 (m, 2H), 3.55 (p, J=6.3 Hz, 1H), 3.43 (bs, 1H), 1.20 (d, J=6.3 Hz, 6H).

reactant | 5-(2-Propylamino)-2(3H)-benzoxazolone | CC(C)NC=1C=CC2=C(NC(O2)=O)C1 | C10H12N2O2
reactant | 5-nitro-2(3H)-benzoxazolone | 44.9 mmol, 8.08 g | [N+](=O)([O-])C=1C=CC2=C(NC(O2)=O)C1 | C7H4N2O4
solvent | acetic acid | 230 mL | C(C)(=O)O | C2H4O2
product | 5-amino-2(3H)-benzoxazolone | NC=1C=CC2=C(NC(O2)=O)C1 | C7H6N2O2
